US07902229B2
2-{[2-(3,3-Dimethyl-ureido)-pyridin-4-ylmethyl]-amino}-benzoic acid (112 mg, 0.35 mmol), 6-amino-2-methyl-2H-indazole-3-carboxylic acid methyl ester (62 mg, 0.3 mmol), N-methylmorpholine (0.09 mL, 0.82 mmol) and HATU (152 mg, 0.4 mmol) were suspended in dry DMF (3 mL) and stirred at rt overnight. The reaction mixture was concentrated in vacuo and the residue partitioned between dichloromethane. The organic phase was washed consecutively with saturated aqueous sodium hydrogencarbonate solution, water and brine, dried and concentrated in vacuo. The residue was purified by chromatography on Isolute® flash silica gel (Separtis) (Gradient elution: 100% CH2Cl2 to CH2Cl2/EtOH 9:1) to give 6-(2-{[2-(3,3-dimethyl-ureido)-pyridin-4-ylmethyl]-amino}-benzoylamino)-2-methyl-2H-indazole-3-carboxylic acid methyl ester (53 mg, 35%) as a solid; 1H-NMR (300 MHz, d6-DMSO) 10.30 (1H, s), 8.79 (1H, s), 8.30 (1H, m), 8.15 (1H, d), 7.92-7.99 (2H, m), 7.82 (1H, s), 7.75 (1H, dd), 7.62 (1H, dd), 7.25-7.29 (1H, m), 6.93-6.96 (1H, m), 6.68 (1H, t), 6.55 (1H, d), 4.45 (2H, d), 4.41 (3H, s), 3.99 (3H, s), 2.92 (6H, s); m/z (ES+) 502 [M+H]+.

reactant | 2-{[2-(3,3-Dimethyl-ureido)-pyridin-4-ylmethyl]-amino}-benzoic acid | 0.35 mmol, 112 mg | CN(C(NC1=NC=CC(=C1)CNC1=C(C(=O)O)C=CC=C1)=O)C | C16H18N4O3
reactant | 6-amino-2-methyl-2H-indazole-3-carboxylic acid methyl ester | 0.3 mmol, 62 mg | COC(=O)C=1N(N=C2C=C(C=CC12)N)C | C10H11N3O2
reactant | N-methylmorpholine | 0.82 mmol, 0.09 mL | CN1CCOCC1 | C5H11NO
reactant | HATU | 0.4 mmol, 152 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 6-(2-{[2-(3,3-dimethyl-ureido)-pyridin-4-ylmethyl]-amino}-benzoylamino)-2-methyl-2H-indazole-3-carboxylic acid methyl ester | 53 mg, 35% | COC(=O)C=1N(N=C2C=C(C=CC12)NC(C1=C(C=CC=C1)NCC1=CC(=NC=C1)NC(=O)N(C)C)=O)C | C26H27N7O4
